US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 1.00 g (5.29 mmol) of methyl 1-methyl-5-indolecarboxylate, 5.05 g (52.9 mmol) of guanidine hydrochloride and 50 ml of a methanol solution of 2.85 g (52.9 mmol) of sodium methoxide. Thus 0.92 g (68.9%) of 1-methyl-5-indoloylguanidine hydrochloride was obtained.

reactant | methyl 1-methyl-5-indolecarboxylate | 5.29 mmol, 1.00 g | CN1C=CC2=CC(=CC=C12)C(=O)OC | C11H11NO2
reactant | guanidine hydrochloride | 52.9 mmol, 5.05 g | Cl.NC(=N)N
reactant | sodium methoxide | 52.9 mmol, 2.85 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-methyl-5-indoloylguanidine hydrochloride | 0.92 g, 68.9% | Cl.CN1C=CC2=CC(=CC=C12)C(=O)NC(=N)N | InChI=1S/C11H12N4O.ClH/c1-15-5-4-7-6-8(2-3-9(7)15)10(16)14-11(12)13;/h2-6H,1H3,(H4,12,13,14,16);1H
